US08067614B2
(1H-Benzoimidazol-2-yl)cyclopentyl(2,6-dichlorophenyl)amine
In analogy to example 1, (1H-benzoimidazol-2-yl)(2,6-dichlorophenyl)amine (250 mg) was dissolved in dimethylformamide (2 ml) at room temperature, deprotonated with sodium hydride (48 mg) and alkylated with cyclopentyl bromide (136.7 mg) in a closed vessel at 100° C. for 8 h. Workup and chromatography resulted in 38 mg of the desired compound.

reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | cyclopentyl bromide | 136.7 mg | C1(CCCC1)Br | C5H9Br
reactant | (1H-benzoimidazol-2-yl)(2,6-dichlorophenyl)amine | 250 mg | N1C(=NC2=C1C=CC=C2)NC2=C(C=CC=C2Cl)Cl | C13H9Cl2N3
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (1H-Benzoimidazol-2-yl)cyclopentyl(2,6-dichlorophenyl)amine | 38 mg | N1C(=NC2=C1C=CC=C2)N(C2=C(C=CC=C2Cl)Cl)C2CCCC2 | C18H17Cl2N3
